US09388172B2
In a 5 mL round-bottomed flask, 2-(3-(trifluoromethyl)phenyl)morpholine (650 mg, 2.81 mmol) was combined with methyl 2-(trifluoromethyl)acrylate (650 mg, 4.22 mmol; added slowly) to give a colorless solution and stirred at room temperature for 50 min. The crude reaction mixture was concentrated in vacuo to give an oil. The crude material was purified by flash chromatography (silica gel, 40+S, 0% to 30% ethyl acetate in hexanes) to afford 850 mg (78%)(methyl 3,3,3-trifluoro-2-((2-(3-(trifluoromethyl)phenyl)morpholino)-methyl)propanoate as a clear liquid. MH+=386.

reactant | 2-(3-(trifluoromethyl)phenyl)morpholine | 2.81 mmol, 650 mg | FC(C=1C=C(C=CC1)C1CNCCO1)(F)F | C11H12F3NO
reactant | methyl 2-(trifluoromethyl)acrylate | FC(C(C(=O)OC)=C)(F)F | C5H5F3O2
product | methyl 3,3,3-trifluoro-2-((2-(3-(trifluoromethyl)phenyl)morpholino)-methyl)propanoate | FC(C(C(=O)OC)CN1CC(OCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C16H17F6NO3
